data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccc(F)cc1", "products": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(F)cc1"}, {"reactants": "CC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccc(F)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(F)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccc(F)cc1", "products": "CC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccc(F)cc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)cc1C", "products": "COc1ccc([C]([O])C2C3CCC2C3)cc1C"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)cc1C", "products": "COc1ccc(C([O])=CC2C[CH]CC2)cc1C"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)cc1C", "products": "COc1ccc(C(O)=CC2C=CCC2)cc1C"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)cc1C", "products": "COc1ccc(C(=O)CC2C=CCC2)cc1C"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1c(Cl)cccc1Cl)C1C2CCC1C2", "products": "[O][C](c1c(Cl)cccc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1c(Cl)cccc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1c(Cl)cccc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1c(Cl)cccc1Cl", "products": "OC(=CC1C=CCC1)c1c(Cl)cccc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1c(Cl)cccc1Cl", "products": "O=C(CC1C=CCC1)c1c(Cl)cccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(C(=O)C2C3CCC2C3)c1", "products": "Cc1cccc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1cccc([C]([O])C2C3CCC2C3)c1", "products": "Cc1cccc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1cccc(C([O])=CC2C[CH]CC2)c1", "products": "Cc1cccc(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1cccc(C(O)=CC2C=CCC2)c1", "products": "Cc1cccc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(OC)c1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(OC)c1", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(OC)c2)C(=N)C=C1", "products": "COc1cc(OC)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1"}, {"reactants": "COc1cc(OC)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1", "products": "COc1cc(OC)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(OC)c2c(c1)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(OC)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(OC)c2c(c1)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(OC)c2c(c1)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(OC)c2c(c1)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(OC)c2[nH]cc(-c3ccccc3)c2c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1C", "products": "Cc1ccc(Cl)cc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)COC)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(C)c1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
